US06479486B2
2-(2-Iodo-4-trifluoromethoxyphenyloxy)-1-(p-toluenesulphonyloxy)propane
Diethyl azodicarboxylate (5 ml, 31.8 mmol) was added dropwise to a stirred solution of (p-toluenesulphonyloxy)propan-2-ol (Description 19; 7.6 g, 33 mmol), triphenylphosphine (9.0 g, 34 mmol) and 2-iodo-4-trifluoromethoxyphenol (10 ml, 33 mmol) at room temperature. The reaction mixture was stirred at room temperature for 2 hours and concentrated in vacuo. The residue was purified by chromatography on silica gel (iso-hexane:ethyl acetate) to give the title compound (18.7 g).

reactant | Diethyl azodicarboxylate | 31.8 mmol, 5 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (p-toluenesulphonyloxy)propan-2-ol | 33 mmol, 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(C)O)C | C10H14O4S
reactant | triphenylphosphine | 34 mmol, 9.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-iodo-4-trifluoromethoxyphenol | 33 mmol, 10 ml | IC1=C(C=CC(=C1)OC(F)(F)F)O | C7H4F3IO2
product | 2-(2-Iodo-4-trifluoromethoxyphenyloxy)-1-(p-toluenesulphonyloxy)propane | 18.7 g | IC1=C(C=CC(=C1)OC(F)(F)F)OC(COS(=O)(=O)C1=CC=C(C=C1)C)C | C17H16F3IO5S
